US08895313B2
4-Bromo-3-nitro-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide
A mixture of 4-bromo-3-nitrobenzoic acid (0.24 g, 0.976 mmol) and thionyl chloride (5 ml) was heated under reflux for 3 h. The reaction mixture was cooled to room temperature and the excess reagent and solvent was removed under reduced pressure to give the crude acid chloride. The amide was prepared as described in the Amide Coupling section using the crude acid chloride, 2-(4-aminophenyl)-6-methoxybenzothiazole (0.25 g, 0.976 mmol) and Hunig's base (0.151 g, 1.17 mmol) in dry THF (10 ml) to give the title compound (0.368 g, 78%) as small yellow crystals after work-up and recrystallisation from DMF.

reactant | 4-bromo-3-nitrobenzoic acid | 0.976 mmol, 0.24 g | BrC1=C(C=C(C(=O)O)C=C1)[N+](=O)[O-] | C7H4BrNO4
reactant | thionyl chloride | 5 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2-(4-aminophenyl)-6-methoxybenzothiazole | 0.976 mmol, 0.25 g | NC1=CC=C(C=C1)C=1SC2=C(N1)C=CC(=C2)OC | C14H12N2OS
reactant | Hunig's base | 1.17 mmol, 0.151 g | CCN(C(C)C)C(C)C | C8H19N
solvent | THF | 10 ml | C1CCOC1 | C4H8O
product | 4-Bromo-3-nitro-N-[4-(6-methoxybenzothiazol-2-yl)-phenyl]-benzamide | 0.368 g, 78% | BrC1=C(C=C(C(=O)NC2=CC=C(C=C2)C=2SC3=C(N2)C=CC(=C3)OC)C=C1)[N+](=O)[O-] | C21H14BrN3O4S
